US09078871B2
A solution of (2S)-2-(2,4-dioxo-3-azabicyclo[3.1.0]hexan-3-yl)propyl acetate (485 mg, 2.3 mmol) and anhydrous diethyl ether (3 mL) was added over 5 min to a suspension of LiAlH4 (262 mg, 6.9 mmol) and anhydrous diethyl ether (20 mL) at rt under N2 (water bath used to control exotherm). After ˜9 h, anhydrous diethyl ether (10 mL) was added. After 24 h, Na2SO4*10H2O was added one crystal at a time until the bubbling ceased. The mixture was diluted with diethyl ether (50 mL) and filtered through Celite with additional diethyl ether (100 mL). The filtrate was concentrated and purified by silica gel chromatography (10:7; ethyl acetate:hexanes→10:7:2:1; ethyl acetate:hexanes:methanol:triethylamine) to give 220 mg of (2S)-2-(3-azabicyclo[3.1.0]hexan-3-yl)propan-1-ol. 1H NMR (DMSO-d6): δ 4.26 (t, 1H), 3.42 (m, 1H), 3.13 (ddd, 1H), 2.91 (d, 1H), 2.85 (d, 1H), 2.39-2.28 (m, 3H), 1.31 (m, 2H), 0.93 (d, 3H), 0.54 (m, 1H), 0.25 (m, 1H); MS: 142.2 (M+H)+.

reactant | (2S)-2-(2,4-dioxo-3-azabicyclo[3.1.0]hexan-3-yl)propyl acetate | 2.3 mmol, 485 mg | C(C)(=O)OC[C@H](C)N1C(C2CC2C1=O)=O | C10H13NO4
reactant | LiAlH4 | 6.9 mmol, 262 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 3 mL | C(C)OCC | C4H10O
product | (2S)-2-(3-azabicyclo[3.1.0]hexan-3-yl)propan-1-ol | 220 mg | C12CN(CC2C1)[C@H](CO)C | C8H15NO
